US06770642B2
Preparation of 3-(3-Bromopropyl)-5-fluoro-1H-indole
A mixture of 3-(5-fluoro-1H-indol-3-yl)-propan-1-ol (2.15 g, 11.2 mmol), carbon tetrabromide (4.80 g, 14.5 mmol) and triphenylphosphine (4.40 g, 16.7 mmol) in methylene chloride is stirred for 1 h and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane 3/7) to afford the title product as an oil, 1.97 g (69% yield), identified by NMR and mass spectral analyses.

reactant | 3-(5-fluoro-1H-indol-3-yl)-propan-1-ol | 11.2 mmol, 2.15 g | FC=1C=C2C(=CNC2=CC1)CCCO | C11H12FNO
reactant | carbon tetrabromide | 14.5 mmol, 4.80 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 16.7 mmol, 4.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(3-Bromopropyl)-5-fluoro-1H-indole | 69% yield | BrCCCC1=CNC2=CC=C(C=C12)F | C11H11BrFN
